US05719157
A mixture of 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinazoline (4.5 g), 2-mercaptoethanol (1.13 g), potassium carbonate (2.8 g) and N,N-dimethylformamide (50 ml) was stirred at room temperature for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate. Evaporation of the solvent gave 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(2-hydroxyethylthiomethyl)quinazoline (4.1 g, 82%) which was then recrystallized from ethanol. Colorless prisms. mp. 154°-155° C.

reactant | 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinazoline | 4.5 g | ClCC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=C(C=C1)OC)OC)OC)OC | C19H19ClN2O4
reactant | 2-mercaptoethanol | 1.13 g | SCCO | C2H6OS
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(2-hydroxyethylthiomethyl)quinazoline | 4.1 g, 82% | COC=1C=C2C(=NC(=NC2=CC1OC)CSCCO)C1=CC(=C(C=C1)OC)OC | C21H24N2O5S
